US04980356
2-Amino-6-trifluoromethoxybenzothiazole (7.1 g) and methyl iodide (4.3 g) in absolute ethanol (20 cc) are heated for 18 hours to boiling. The mixture is then cooled to a temperature in the region of 20° C. The precipitate formed is separated by filtration and washed with absolute ethanol (2×20 cc). The solid is taken up in distilled water (100 cc) heated to 60° C., and the solution obtained is treated with sodium hydrogen carbonate (2.6 g). The precipitate is separated by filtration and recrystallized in a boiling mixture (50 cc) of absolute ethanol and distilled water (50:50 by volume). 2-Imino-3-methyl-6-trifluoromethoxybenzothiazoline (2.1 g), m.p. 60°-62° C., is obtained.

reactant | 2-Amino-6-trifluoromethoxybenzothiazole | 7.1 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
reactant | methyl iodide | 4.3 g | CI | CH3I
reactant | sodium hydrogen carbonate | 2.6 g | C(O)([O-])=O.[Na+]
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 2-Imino-3-methyl-6-trifluoromethoxybenzothiazoline | 2.1 g | N=C1SC2=C(N1C)C=CC(=C2)OC(F)(F)F | C9H7F3N2OS
